US08049016B2
Synthesis of (R)—N-(3,5-difluorobenzyl)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 2, making variations as required to replace pyridin-3-ylmethanamine with (3,5-difluorophenyl)methanamine and replace (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid the title compound was obtained as a white solid: mp 159-160° C. (ethyl acetate/hexane); 1H NMR (300 MHz, DMSO-d6) δ 8.75 (t, J=5.6 Hz, 1H), 7.40-7.35 (m, 2H), 7.21-6.99 (m, 5H), 4.60 (d, J=15.6 Hz, 1H), 4.39 (d, J=5.6 Hz, 2H), 4.30 (d, J=15.6 Hz, 1H), 4.20 (dd, J=10.1, 9.1 Hz, 1H), 3.78-3.71 (m, 1H), 3.56 (dd, J=10.2, 6.8 Hz, 1H), 2.48 (s, 3H), 1.22 (d, J=6.1 Hz, 3H); MS (ES+) m/z 474.9 (M+1).

reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | (3,5-difluorophenyl)methanamine | FC=1C=C(C=C(C1)F)CN | C7H7F2N
reactant | (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
reactant | (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
product | (R)—N-(3,5-difluorobenzyl)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | FC=1C=C(CNC(=O)C2=C(N=C(S2)N2C(N([C@@H](C2)C)CC2=CC=C(C=C2)F)=O)C)C=C(C1)F | C23H21F3N4O2S
